US06143764
N-{4-[(6,7-Dimethoxy-4-quinolinyl)oxy]phenyl}-(4-butoxyphenyl)carboxamide [74]
6,7-Dimethoxy-4-(4-aminophenoxy)quinoline (52 mg) was suspended in triethylamine/methylene chloride (3 ml/2 ml), commercially available 4-butoxybenzoyl chloride (0.07 ml) was added, and the admixture was stirred at room temperature for 30 hours. The reaction mixture was then purified in the same manner as described in Example 62 to obtain 34 mg of the title compound (yield: 41%).

reactant | 6,7-Dimethoxy-4-(4-aminophenoxy)quinoline | 52 mg | COC=1C=C2C(=CC=NC2=CC1OC)OC1=CC=C(C=C1)N | C17H16N2O3
reactant | 4-butoxybenzoyl chloride | 0.07 ml | C(CCC)OC1=CC=C(C(=O)Cl)C=C1 | C11H13ClO2
solvent | triethylamine methylene chloride | 3 ml | C(C)N(CC)CC.C(Cl)Cl
product | N-{4-[(6,7-Dimethoxy-4-quinolinyl)oxy]phenyl}-(4-butoxyphenyl)carboxamide | 34 mg, yield: 41% | COC=1C=C2C(=CC=NC2=CC1OC)OC1=CC=C(C=C1)NC(=O)C1=CC=C(C=C1)OCCCC | C28H28N2O5
